US06451820B1
A suspension of 5-(4-pyridyl)-1H-1,2,4-triazole-3-thiol (Aldrich) (4 g, 22.4 mmol) and .potassium t-butoxide (2.89 g, 25.8 mmol) in DMF (30 mL) was stirred at room temperature under argon until a homogeneous solution resulted. Methyl iodide (1.48 mL 23.8 mmol) was added and the reaction mixture was heated to 50° C. in an oil bath for 16 h. The reaction mixture was diluted with water, extracted with EtOAc, the organic extract was washed with water and dried (MgSO4). The solid obtained on concentration was filtered from hot ethyl acetate to obtain 3-methylthio-5-(4-pyridyl)-1H-1,2,4-triazole (1.97 g).

reactant | 5-(4-pyridyl)-1H-1,2,4-triazole-3-thiol | 22.4 mmol, 4 g | N1=CC=C(C=C1)C1=NC(=NN1)S | C7H6N4S
reactant | potassium t-butoxide | 25.8 mmol, 2.89 g | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 23.8 mmol, 1.48 mL | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-methylthio-5-(4-pyridyl)-1H-1,2,4-triazole | 1.97 g | CSC1=NNC(=N1)C1=CC=NC=C1 | C8H8N4S
